US05998436
Synthesis of 1-(6-amino-5-chloro-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 2 ml of the mixed solution of 4N hydrochloric acid and acetic acid (1:1) was added 430 mg of ethyl 1-(6-amino-5-chloro-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux for 6 hours with stirring and allowed to cool. The precipitate was collected by filtration, and washed with ethanol and diisopropylether successively to obtain 375 mg of the title compound as a colorless powder.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ethyl 1-(6-amino-5-chloro-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 430 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)F)Cl | C17H10Cl2F3N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(6-amino-5-chloro-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 375 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)Cl | C15H6Cl2F3N3O3
